US04145364
Step A: Preparation of 3-acetylphenylazide
A mixture of 10.8g. (0.08 mole) of 3-acetylaniline in 50 ml. of water was treated with 20 ml. of concentrated HCl and cooled to 0° C. There was then added a solution of 6.07g. (0.088 mole) of NaNO2 in 20 ml. of water. The reaction mixture was aged for 20 minutes, and there was then added 25 ml. of hexane and 25 ml. of ether, followed by a solution fo 5.72g. (0.088 mole) of NaN3 in 20 ml. of water. The reaction mixture was aged for 1/2 hour at room temperature, after which the aqueous and organic components were separated, and the aqueous component extracted with 50 ml. of ether. The organic component and extract were dried over MgSO4 and concentrated under reduced pressure to 12.72g. (99%) of product whose structure as 3-acetylphenylazide was confirmed by IR.

reactant | 3-acetylaniline | 0.08 mole | C(C)(=O)C=1C=C(N)C=CC1 | C8H9NO
reactant | HCl | Cl | ClH
reactant | NaNO2 | 0.088 mole | N(=O)[O-].[Na+]
reactant | NaN3 | 0.088 mole | [N-]=[N+]=[N-].[Na+]
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 3-acetylphenylazide | C(C)(=O)C=1C=C(C=CC1)N=[N+]=[N-] | C8H7N3O
